US04122265
A solution of 7.45 g. of methylamine in 120 ml. of methanol is treated with 12 ml. of 6.65-N methanolic hydrochloric acid. Thereafter, there are successively added under an atmosphere of argon at 20°-25° C. 17.0 g. of o-benzoyl-p-chlorophenylglyoxylic acid [2-(diethylamino)ethyl]amide hydrochloride and 1.6 g. of sodium cyanoborohydride and the mixture is stirred at room temperature for an additional 2 hours. The mixture is made acidic with concentrated hydrochloric acid while cooling with ice, stirred at room temperature for an additional 0.5 hour and evaporated to dryness under reduced pressure. The residue is made alkaline with 2-N ammonium hydroxide with the addition of ice and extracted with diethyl ether. After drying over sodium sulfate, the extract is concentrated to dryness and the oily residue triturated with hexane to crystallize the product. The product is removed by filtration, dissolved in 30 ml. of methanol and the solution treated with excess ethereal hydrochloric acid. After dilution with diethyl ether to a ten-fold volume, the hydrochloride which crystallizes out is removed by filtration and washed with diethyl ether. Recrystallization from methanol/diethyl ether yields 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid [2-(diethylamino)ethyl]amide hydrochloride in the form of almost colorless crystals having a melting point of 211°-214° C. (decomposition).

reactant | methylamine | CN | CH5N
reactant | hydrochloric acid | Cl | ClH
reactant | o-benzoyl-p-chlorophenylglyoxylic acid [2-(diethylamino)ethyl]amide hydrochloride | Cl.C(C)N(CCNC(C(=O)C1=C(C=C(C=C1)Cl)C(C1=CC=CC=C1)=O)=O)CC
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
product | 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid [2-(diethylamino)ethyl]amide hydrochloride | Cl.C(C)N(CCNC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)C)CC | InChI=1S/C22H26ClN3O.ClH/c1-4-26(5-2)14-13-24-22(27)21-18-12-11-17(23)15-19(18)20(25(21)3)16-9-7-6-8-10-16;/h6-12,15H,4-5,13-14H2,1-3H3,(H,24,27);1H
